US06313149B1
N-(2,5-Dimethyl-2H-pyrazol-3-yl)-2,2-dimethyl-propionamide
To 15.0 g (131 mmol) N-(2,5-dimethyl-2H-pyrazol-3-yl)-amine in 150 mL pyridine at 0° C. was added 19.3 mL (18.9 g, 158 mmol) of pivaloyl chloride. After stirring at 23° C. for 3.5 hours, the reaction solvent was evaporated, and the residue was evaporated with 2×200 mL toluene. The remaining solid was dissolved in 500 mL EtOAc/200 mL H2O and extracted. The aqueous layer was extracted with 2×100 mL EtOAc, and the combined organics were washed with 1×200 mL brine, dried over MgSO4, filtered and evaporated to an orange solid. Recrystallization from hot hexanes/EtOAc gave 24.45 g (125 mmol, a 96% yield) of the title compound as an off-white, crystalline solid: mp: 86-88° C.; 1H NMR (300 MHz, CDCl3): δ1.32 (s, 9H), 2.22 (s, 3H), 3.63 (s, 3H), 5.98 (s, 1H), 7.12 (brs, 1H); IR (KBr, cm−1): 3316s, 3274s, 2967m, 2935m, 1673s, 1655m, 1570s, 1514m, 1492m, 1457m; MS (ES) m/z (relative intensity): (196, M+, 100).

reactant | N-(2,5-dimethyl-2H-pyrazol-3-yl)-amine | 131 mmol, 15.0 g | CN1N=C(C=C1N)C | C5H9N3
reactant | pivaloyl chloride | 158 mmol, 19.3 mL, 18.9 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | pyridine | 150 mL | N1=CC=CC=C1 | C5H5N
product | N-(2,5-Dimethyl-2H-pyrazol-3-yl)-2,2-dimethyl-propionamide | 96% yield | CN1N=C(C=C1NC(C(C)(C)C)=O)C | C10H17N3O
